US07429449B2
L-isoleucine 2 g;
L-methionine 2 g; PABA 0.2 g; L-phenylalanine 2 g; L-proline 2 g;

reactant | L-methionine | 2 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | PABA | 0.2 g | C1=CC(=CC=C1C(=O)O)N | C7H7NO2
reactant | L-phenylalanine | 2 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | L-proline | 2 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | L-isoleucine | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
